US07030139B2
9B: 3-amino-N,N-diethyl-4-[(2-phenylethyl)amino]benzamide.
Following general procedure 2C: A mixture of N,N-diethyl-3-nitro-4[(2-phenylethyl)amino]benzamide (0.170 g, 0.498 mmol) and 10% Pd/C in EtOAc (10 mL) was hydrogenated at 40 psi. Usual work-up provided the title compound (0.156 g) which was used without further purification. MS (ESI) (M+H)+=312.

reactant | N,N-diethyl-3-nitro-4[(2-phenylethyl)amino]benzamide | 0.498 mmol, 0.170 g | C(C)N(C(C1=CC(=C(C=C1)NCCC1=CC=CC=C1)[N+](=O)[O-])=O)CC | C19H23N3O3
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 3-amino-N,N-diethyl-4-[(2-phenylethyl)amino]benzamide | 0.156 g | NC=1C=C(C(=O)N(CC)CC)C=CC1NCCC1=CC=CC=C1 | C19H25N3O
